US09120749B2
1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-(4-((dimethylamino)methyl)phenylamino)quinolin-3-yl)-2-methylpropan-1-one
Following general procedure D, 1-(6-bromo-4-(4-((dimethylamino)methyl)phenylamino)quinolin-3-yl)-2-methylpropan-1-one (80 mg, 0.186 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (84 mg, 0.291 mmol) to afford the desired product (58 mg, 61%) as a yellow-green solid: 1H NMR (300 MHz, CD3OD) δ 9.09 (s, 1H), 7.90 (s, 2H), 7.74 (s, 1H), 7.42 (d, J=8.4 Hz, 2H), 7.20 (d, J=8.1 Hz, 2H), 7.10 (s, 2H), 3.81 (m, 3H), 2.41 (s, 6H), 1.24 (d, J=6.6, 6H), ESI MS m/z 508, [C28H27Cl2N3O2+H]+; HPLC 99.7% (AUC), tR=11.16 min.

reactant | 1-(6-bromo-4-(4-((dimethylamino)methyl)phenylamino)quinolin-3-yl)-2-methylpropan-1-one | 0.186 mmol, 80 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)NC1=CC=C(C=C1)CN(C)C | C22H24BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.291 mmol, 84 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-(4-((dimethylamino)methyl)phenylamino)quinolin-3-yl)-2-methylpropan-1-one | 58 mg, 61% | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)NC1=CC=C(C=C1)CN(C)C | C28H27Cl2N3O2
